Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Microhematuria, bladder stones, benign prostatic hypertrophy, 
lower urinary tract symptoms
 
Major Surgical or Invasive Procedure:
Cystoscopy, transurethral resection of prostate.

 
History of Present Illness:
___ is a ___ male with burning on urination for the last 3 
months.  This is also been an issue in the past, but appears to 
have intensified recently.  In addition he complains of weak 
stream, slow stream, frequency, urgency.  

He denies gross hematuria, but did have 3 red cells on 
microscopic urine collection. Right-sided flank pain and groin 
pain. In addition he had a mitral valve surgery ___ years ago and 
complains of a periodic burning sensation between his shoulder 
blades and this coincided with right flank pain as well.
He saw his internist and was placed on Bactrim for presumed 
prostatitis.
He did have one episode of urinary retention after a hernia 
repair several years ago.
 
Past Medical History:
*S/P MITRAL VALVE REPAIR                                        
BACK PAIN                                                       
COUGH                                                           
COUGH                                                           
HEALTH MAINTENANCE                                              
HYPERLIPIDEMIA                                                  
LUNG NODULE                                                     
MIGRAINE HEADACHES                                              
PAROXYSMAL ATRIAL FIBRILLATION                                  
SLEEP APNEA                                                     
INGUINAL HERNIA                                                 
INGUINODYNIA                                                    
NEPHROLITHIASIS 
ERECTILE DYSFUNCTION                                             
   

INGUINAL HERNIA                                       ___
lap bilateral inguinal hernia repair with mesh                  

DEVIATED SEPTUM                                    

MITRAL VALVA REPAIR                                             

NECK LIPOMA REMOVAL                                  

JAW SURGERY                                                     

 
Social History:
___
Family History:
NON-contributory
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Foley in place, secured to medial thigh. 60cc remains in 
balloon.
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
none for this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service with 
preadmission diagnosis of bladder stones and a large bilobar 
prostate. He underwent cystoscopy and bipolar transurethral 
resection of prostate. No concerning intraoperative events 
occurred and there was no evidence of bladder stones; please see 
dictated operative note for details. Mr. ___ received 
___ antibiotic prophylaxis and his postoperative 
course was uncomplicated. He received intravenous antibiotics 
and continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued. His urine was clear-pink and without clots. He 
remained a-febrile throughout his hospital stay.  At discharge, 
the Mr. ___ had pain well controlled with oral pain 
medications, was tolerating regular diet, ambulating without 
assistance, and versed on foley care/hygiene.  He was given oral 
pain medications on discharge and explicit instructions to 
follow up in clinic for trial of void.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Pravastatin 20 mg PO QPM 
5. Aspirin 325 mg PO DAILY 
6. TraMADol 50 mg PO DAILY:PRN Headache 
7. Cialis (tadalafil) 10 mg oral DAILY:PRN 1hr before sex 
8. Viagra (sildenafil) 100 mg oral DAILY:PRN 1hr before sex 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO ONCE Duration: 1 Dose 
TAKE ON THE MORNING OF YOUR SCHEDULED VOID TRIAL/FOLEY REMOVAL 
RX *ciprofloxacin HCl 500 mg ONE TAB by mouth ONCE Disp #*1 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg one capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg one tablet(s) by mouth Q4HRS Disp #*15 Tablet 
Refills:*0 
5.  Phenazopyridine 100 mg PO Q8H:PRN DYSURIA/URGENCY Duration: 
3 Days 
START THE MORNING OF YOUR SCHEDULED VOID TRIAL/FOLEY REMOVAL 
RX *phenazopyridine 100 mg one tablet(s) by mouth Q8HRS Disp #*9 
Tablet Refills:*0 
6.  Senna 17.2 mg PO QHS Duration: 2 Doses  
7.  Cialis (tadalafil) 10 mg oral DAILY:PRN 1hr before sex 
***DO NOT TAKE IF ALSO TAKING VIAGRA***  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Omeprazole 20 mg PO BID  
10.  Pravastatin 20 mg PO QPM  
11.  Tamsulosin 0.4 mg PO QHS  
12.  TraMADol 50 mg PO DAILY:PRN Headache  
13.  Viagra (sildenafil) 100 mg oral DAILY:PRN 1hr before sex 
>>>>DO NOT TAKE IF ALSO TAKING CIALIS<<<<<  
14. HELD- Aspirin 325 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PREOPERATIVE DIAGNOSIS:  Bladder stone and large bilobar
prostatic hyperplasia.

POSTOPERATIVE DIAGNOSIS:  No evidence of bladder stones,
large bilobar prostatic hyperplasia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger
 
Followup Instructions:
___